US07435837B2
Treatment of (±)-(7-benzyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (6.53 g, 16.6 mmol) with sodium azide (4.30 g, 66.2 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-(7-benzyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide. Treatment of the azide with palladium on carbon (0.40 g, 10 wt. %) generally according to the procedure described for Example 1 gave 3.62 g (79%) of (±)-1-(7-benzyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 107-111° C. (dec); Anal. calcd. for C16H17NOHCl: C, 69.69; H, 6.58; N, 5.08. Found: C, 68.56; H, 6.66; N, 4.92.

reactant | (±)-(7-benzyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 16.6 mmol, 6.53 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2CC2=CC=CC=C2 | C23H22O4S
reactant | sodium azide | 66.2 mmol, 4.30 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-(7-benzyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide | C(C1=CC=CC=C1)C1=CC=CC=2CC(OC21)CN=[N+]=[N-] | C16H15N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | (±)-1-(7-benzyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 3.62 g, 79% | C(C1=CC=CC=C1)C1=CC=CC=2CC(OC21)CN | C16H17NO
